US04156005
To a solution of 3.19 g of 5-(1,1-dimethylethyl)-3-iodosalicylaldoxime in 10 ml of tetrahydrofuran is added 2.0 g of trichloroacetylisocyanate in tetrahydrofuran (5 ml) at room temperature followed by addition of 1.52 g of potassium carbonate. The mixture is stirred for an additional 20 minutes before it is poured into 400 ml of water. The precipitate so obtained is crystallized from methanol to afford 1.4 g (46.5%) of 5-(1,1-dimethylethyl)-7-iodo-1,2-benzisoxazole, m.p. 106°-109° C.

reactant | 5-(1,1-dimethylethyl)-3-iodosalicylaldoxime | 3.19 g | CC(C)(C)C1=CC(=C(C(C=NO)=C1)O)I | C11H14INO2
reactant | trichloroacetylisocyanate | 2.0 g | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | potassium carbonate | 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-(1,1-dimethylethyl)-7-iodo-1,2-benzisoxazole | 1.4 g, 46.5% | CC(C)(C)C=1C=C(C2=C(C=NO2)C1)I | C11H12INO
